US08754079B2
4-[2-((1S,3S)-3-Acetylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Acetyl chloride (21 μl) was added at 0° C. to a mixture of 4-[2-((1S,3S)-3-amino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide trifluoroacetate (cpd. 229, 206 mg) and DIPEA (348 μl) in DCM (25 ml) and stirred at rt for 4 hours. The reaction mixture was concentrated, diluted with water and extracted with DCM. The organic layer was dried, concentrated and the crude was purified by chromatography to give the desired product.

reactant | Acetyl chloride | 21 μl | C(C)(=O)Cl | C2H3ClO
reactant | 4-[2-((1S,3S)-3-amino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide trifluoroacetate | 206 mg | FC(C(=O)O)(F)F.N[C@@H]1C[C@H](CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N
reactant | DIPEA | 348 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-((1S,3S)-3-Acetylamino-cyclopentyloxy)-4-fluoro-phenylamino]-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C(C)(=O)N[C@@H]1C[C@H](CC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C21H22FN5O3S
